US05294631
(ii) 4-amino-3-[(2-chlorophenyl)methyl]aminobenzoic acid
A mixture of 3-[(2-chlorophenyl)methyl]amino-4-nitrobenzoic acid (6 g, 19.6 mmol), tetrahydrofuran (60 mL) and 5% sodium bicarbonate solution (50 mL) was treated portionwise with sodium hydrosulfite (4 g). The resulting clear solution had a pH of 6.29 that was adjusted to pH 7.15 by the addition of solid sodium bicarbonate. Additional sodium hydrosulfite was added (12 g) over several hours, and the mixture was stirred overnight. The tetrahydrofuran phase was separated, concentrated and triturated with ether/methylene chloride/hexane to afford 5.07 g of solid. Crystallization from methanol followed by washing with cold dilute aqueous methanol provided 4.79 g (88%) of pink-to-white crystals of 4-amino-3-[(2-chlorophenyl)methyl]aminobenzoic acid; mp 176°-177° C.

reactant | 3-[(2-chlorophenyl)methyl]amino-4-nitrobenzoic acid | 19.6 mmol, 6 g | ClC1=C(C=CC=C1)CNC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C14H11ClN2O4
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
reactant | sodium hydrosulfite | 4 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 4-amino-3-[(2-chlorophenyl)methyl]aminobenzoic acid | 5.07 g | NC1=C(C=C(C(=O)O)C=C1)NCC1=C(C=CC=C1)Cl | C14H13ClN2O2
